US06624159B2
8-((Benzylamino)methyl)-N-(4-chlorobenzyl)-4-hydroxy-6-(4-morpholinylmethyl)-3-quinolinecarboxamide [AV.8]
A mixture of ethyl 8-((benzylamino)methyl)-4-hydroxy-6-(4-morpholinylmethyl)-3-quinolinecarboxylate (Preparation 28, 513 mg) and 4-chlorobenzylamine (2.5 mL) is heated at 200° C. for 20 min. The mixture is concentrated, and the remaining oil is taken up in chloroform and applied to a silica gel column. The column is eluted with 1% methanol/chloroform followed by 2-4% methanol/chloroform to afford 483 mg of the title compound after crystallization from ethyl acetate/ether. Physical characteristics: M.p. 214-216° C.; 1H NMR (CDCl3) δ2.46, 3.59, 3.71, 3.86, 4.28, 4.67, 7.28-7.43, 7.53, 8.25, 8.84, 10.5. Anal. Found: C, 67.68; H, 5.89; N, 10.52; Cl, 6.64.

reactant | ethyl 8-((benzylamino)methyl)-4-hydroxy-6-(4-morpholinylmethyl)-3-quinolinecarboxylate | 513 mg | C(C1=CC=CC=C1)NCC=1C=C(C=C2C(=C(C=NC12)C(=O)OCC)O)CN1CCOCC1 | C25H29N3O4
reactant | 4-chlorobenzylamine | 2.5 mL | ClC1=CC=C(CN)C=C1 | C7H8ClN
product | 8-((Benzylamino)methyl)-N-(4-chlorobenzyl)-4-hydroxy-6-(4-morpholinylmethyl)-3-quinolinecarboxamide | 483 mg | C(C1=CC=CC=C1)NCC=1C=C(C=C2C(=C(C=NC12)C(=O)NCC1=CC=C(C=C1)Cl)O)CN1CCOCC1 | C30H31ClN4O3
